data/mechanisms/records/IMS9-EQ9.26b.json
{"mechanism_id": "IMS9-EQ9.26b", "species": [{"species_id": "methylheptanone_molecular_ion", "mapped_smiles": "[CH3:1][C:2](=[O+:9])[CH2:3][CH2:4][CH:5]([1H:10])[CH:6]([CH3:7])[CH3:8]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "methyl_radical", "mapped_smiles": "[CH3:1]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "hexanoyl_cation_mz113", "mapped_smiles": "[C:2](#[O+:9])[CH2:3][CH2:4][CH:5]([1H:10])[CH:6]([CH3:7])[CH3:8]", "role": "intermediate", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "hexyl_cation_mz85", "mapped_smiles": "[CH2+:3][CH2:4][CH:5]([1H:10])[CH:6]([CH3:7])[CH3:8]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "carbon_monoxide", "mapped_smiles": "[C-:2]#[O+:9]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["methylheptanone_molecular_ion"]}, {"state_id": "state_mz113", "species_ids": ["hexanoyl_cation_mz113", "methyl_radical"]}, {"state_id": "state_mz85", "species_ids": ["hexyl_cation_mz85", "carbon_monoxide", "methyl_radical"]}], "steps": [{"step_id": "step_alpha_methyl_loss", "from_state": "state_precursor", "to_state": "state_mz113", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [9]}, "target": {"type": "bond", "atom_maps": [2, 9]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "bond", "atom_maps": [2, 9]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 2]}, "target": {"type": "atom", "atom_maps": [1]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_inductive_co_loss", "from_state": "state_mz113", "to_state": "state_mz85", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_alpha_methyl", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_methyl_loss", "support_type": "textbook_proposed", "locator": {"page": 249, "equation": "9.26", "figure": null, "panel": null, "section": "9.3 Aldehydes and ketones (second 'alpha' arrow)"}, "confidence": 0.75, "curator_note": "Substrate as drawn: a 2-alkanone molecular ion printed as C3H7-CH(H)-CH2-CH2-C(=O)-CH3 with the gamma hydrogen on C5 drawn EXPLICITLY and '+.' printed above the carbonyl oxygen. INSTANTIATION of the condensed 'C3H7' label (the page does not draw it out): it is taken as ISOPROPYL, making the compound 6-methyl-2-heptanone. That is not a guess -- the running text introducing this scheme rationalises 'the characteristic peaks in ... 6-methyl-2-heptanone (Figure 9.9)' and names 'a pair of acylium ions (m/z 113 and 43 in Figure 9.9) and a pair of alkyl ions (m/z 85 and 15)', which are exactly this equation's products. n-Propyl would give 2-octanone, an isomer with identical nominal masses at every step, so the drawing alone cannot distinguish them and the text is what settles it. LOCALIZATION (convention B): charge and odd electron are written on the oxygen where the page prints them, [C:2]=[O+:9]. Book draws 0 arc(s) on the molecular ion -- there is no fishhook anywhere on it; every arrow leaving it carries only a label. SECOND channel: an arrow labelled 'alpha' to 'C6H13CO+ / m/z 113'. The complementary alpha cleavage to IMS9-EQ9.26a -- the C1-C2 bond breaks instead, expelling CH3. and keeping the charge on the larger acylium. (The running text calls these 'a pair of acylium ions (m/z 113 and 43)' and notes the more abundant one usually comes from loss of the LARGER alkyl, i.e. m/z 43.) Book draws 0 arc(s); all three moves are curator-supplied, same canonical triple as the other acylium channel. MS CONTEXT: the page prints no ionisation conditions, so 70 eV EI is the corpus house default, disclosed rather than read off the page. Figure 9.9 (printed p247) is the 6-methyl-2-heptanone spectrum and does carry abundances, but it is NOT this page and this scheme prints no percentage, so per convention F no relative_intensity is recorded; peaks are status 'proposed'."}, {"evidence_id": "evidence_step_co_loss", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_inductive_co_loss", "support_type": "textbook_proposed", "locator": {"page": 249, "equation": "9.26", "figure": null, "panel": null, "section": "9.3 Aldehydes and ketones ('i' arrow from m/z 113)"}, "confidence": 0.7, "curator_note": "The short arrow labelled with an italic 'i' running from m/z 113 down to 'C6H13+ / m/z 85': loss of neutral CO from the acylium. Book draws 0 arc(s) and no structure -- only the formulas -- so the single move is curator-supplied. ENCODING: this is a genuinely heterolytic (2-electron) step from an EVEN-ELECTRON acylium, so it is one double-barbed arrow, not fishhooks -- the C2-C3 bonding pair localises on C2, leaving C3 as the hexyl cation and C2 as the carbon lone pair of :C≡O:. Carbon monoxide is written [C-:2]#[O+:9], the standard charge-separated RDKit form; the fragment is neutral overall."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 128.1196, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_113", "species_id": "hexanoyl_cation_mz113", "step_id": "step_alpha_methyl_loss", "observed_mz": 113.0961, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.7}, {"peak_id": "peak_85_via_co_loss", "species_id": "hexyl_cation_mz85", "step_id": "step_inductive_co_loss", "observed_mz": 85.1012, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.7}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "manual_from_scan", "review_status": "unreviewed", "created_at": "2026-08-04T00:00:00Z", "modified_at": "2026-08-04T00:00:00Z"}}
